US05324793
A) Preparation of N-Methyl-Methacrylamide/Methyl Methacrylate Copolymers
Methyl methacrylate (MMA) and N-methyl-methacrylamide (MMam), as well as 0.3 percent, by weight of the addition, of dodecyl mercaptan as a chain transfer agent, were introduced continuously into a stirred vessel together with tert.-butyl peroctoate (TBP) as an initiator in the proportions given in Table 1 for Example A1, A2, and A3. Polymerization took place at a temperature of 150° C. At a dwell time of 48-50 minutes, a conversion of 40-50 percent was reached. A stream of material corresponding to that added to the vessel was continuously removed from the stirred reactor and introduced into a degasification extruder where, at a pressure of 20 mbar and a temperature of 230° C., the unreacted monomers were separated. The composition and the reduced viscosity of the polymers obtained are given in Table 1. The difference from 100 percent of the polymer composition pertains to methacryl-N-methylimide units. The reduced viscosity was determined in chloroform solution.

reactant | Methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | N-methyl-methacrylamide | CNC(C(=C)C)=O | C5H9NO
reactant | dodecyl mercaptan | C(CCCCCCCCCCC)S | C12H26S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-Methyl-Methacrylamide Methyl Methacrylate | CNC(C(=C)C)=O.C(C(=C)C)(=O)OC | InChI=1S/C5H9NO.C5H8O2/c1-4(2)5(7)6-3;1-4(2)5(6)7-3/h1H2,2-3H3,(H,6,7);1H2,2-3H3
